US05958942
ii) Synthesis of 1,2-dihydro-3-methyl-1-[4-(benzamido)butan-1-yl]-1,4,7b-triazacyclopent-[cd]inden-2-one·hydrochloride
To a solution of 3.06 g (8.78 mmol) of 1,2-dihydro-3-methyl-1-[4-(benzamido)butan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one in 50 ml of methanol was added 0.88 ml of conc. HCl, then the solvent was distilled off. The residue was crystallized from methanol-acetone. The crystals were collected by filtration and washed with acetone to give 2.90 g of the object product (85.8%, colorless solid), m.p.173.0-175.5° C.

reactant | 1,2-dihydro-3-methyl-1-[4-(benzamido)butan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one | 8.78 mmol, 3.06 g | CC=1N=C2N3C1C(N(C3=CC=C2)CCCCNC(C2=CC=CC=C2)=O)=O | C20H20N4O2
reactant | HCl | 0.88 ml | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | 1,2-dihydro-3-methyl-1-[4-(benzamido)butan-1-yl]-1,4,7b-triazacyclopent-[cd]inden-2-one·hydrochloride | 2.90 g, 85.8% | CC=1N=C2N3C1C(N(C3=CC=C2)CCCCNC(C2=CC=CC=C2)=O)=O.Cl | InChI=1S/C20H20N4O2.ClH/c1-14-18-20(26)23(17-11-7-10-16(22-14)24(17)18)13-6-5-12-21-19(25)15-8-3-2-4-9-15;/h2-4,7-11H,5-6,12-13H2,1H3,(H,21,25);1H
